US07385085B2
Step 2. [1-(3-tert-Butyl-phenyl)-4-oxo-cyclohexyl]-carbamic acid tert-butyl ester
4-Amino-4-(3-tert-butyl-phenyl)-cyclohexanone (441 mg, 1.8 mmol) was dissolved in dry methylene chloride (10 mL), diisopropylethylamine (0.31 mL, 1.8 mmol) and di-tert-butyl carbonate (400 mg, 1.83 mmol) were added in succession at room temperature. After 19 h, the reaction was concentrated under reduced pressure, and the desired product isolated by chromatography (Rf=0.35 in 20% EtOAc/hexanes). The resulting oil was taken to the next reaction: retention time=2.57 min, method [7]; mass spec (ESI) 369 (24), 368 (100), 272 (42), 211 (24).

reactant | 4-Amino-4-(3-tert-butyl-phenyl)-cyclohexanone | 1.8 mmol, 441 mg | NC1(CCC(CC1)=O)C1=CC(=CC=C1)C(C)(C)C | C16H23NO
reactant | diisopropylethylamine | 1.8 mmol, 0.31 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl carbonate | 1.83 mmol, 400 mg | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | [1-(3-tert-Butyl-phenyl)-4-oxo-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCC(CC1)=O)C1=CC(=CC=C1)C(C)(C)C)=O | C21H31NO3
